US04987129
(2) Synthesis of 7-chloro-2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidine
To a mixed solution of 300 ml of phosphorus oxychloride and 50 ml of N,N-dimethylaniline was added 38.8 g of 7-hydroxy-2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidine, and the mixture was stirred at 50° to 60° C. for one hour. After removing phosphorus oxychloride, the residue was dissolved in 500 ml of chloroform and stirred by adding ice. The chloroform layer was separated and washed with water, and then dried over anhydrous magnesium sulfate and distilled the solvent to obtain crystals. The crystals were collected by filtration and washed with water, and then dried to obtain the title compound.

reactant | phosphorus oxychloride | 300 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-hydroxy-2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidine | 38.8 g | OC1=CC(=NC=2N1N=C(N2)COC)C | C8H10N4O2
solvent | N,N-dimethylaniline | 50 ml | CN(C1=CC=CC=C1)C | C8H11N
product | 7-chloro-2-methoxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidine | ClC1=CC(=NC=2N1N=C(N2)COC)C | C8H9ClN4O
